* Pass Logic
.global vdd
.incl tsmc18.sp

* Parameters
.param wp=0.3u
.param wn=0.3u

* Power supply
VDD vdd 0 1.8

* Input Sources
va A 0 pulse 0 1.8 8n 50p 50p 8n 16n
vb B 0 pulse 0 1.8 4.05n 50p 50p 4n 8.0n
vcin Cin 0 pulse 0 1.8 2n 50p 50p 2n 4n

* Not Signals
xan a an inv
xbn b bn inv
xncin cin ncin inv


* S Part

x1 b t1 an a Transmissiongate
x2 bn t1 a an Transmissiongate

x3 b t2 a an Transmissiongate
x4 bn t2 an a Transmissiongate

x5 t1 s ncin cin Transmissiongate
x6 t2 s cin ncin Transmissiongate

* Cout Part

x7 b t3 a an Transmissiongate
X8 1 t3 an a Transmissiongate

x9 b t4 an a Transmissiongate
x10 0 t4 a an Transmissiongate

x11 t3 Cout ncin cin Transmissiongate
x12 t4 Cout cin ncin Transmissiongate


* Transmission Gate
.subckt Transmissiongate in out pin nin wp=0.3u wn=0.3u

m1 out pin in vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m2 in nin out 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

.ends

.subckt inv in out wp=0.3u wn=0.3u

m1 out in vdd vdd cmosp w='wp' l=0.2u ad='wp*0.55u' as='wp*0.55u' pd='2*(wp+0.55u)' ps='2*(wp+0.55u)'
m2 out in 0 0 cmosn w='wn' l=0.2u ad='wn*0.55u' as='wn*0.55u' pd='2*(wn+0.55u)' ps='2*(wn+0.55u)'

.ends

.control

tran 1p 16n
plot v(Cin) v(B)+2 v(A)+4 v(S)+6 v(Cout)+8

.endc

.end